US07625888B2
Step C: {(1R)-1-(2,4,5-Trifluorobenzyl)-2-[9-(trifluoromethyl)-5,6-dihydro[1,2,4]triazolo[4′,3′:1,2]pyrido[3,4-d]pyrimidin-3-yl]ethyl}amine, hydrochloride
To 47 mg (0.89 mmol) of tert-butyl{(1R)-1-(2,4,5-trifluorobenzyl)-2-[9-(trifluoromethyl)-5,6-dihydro[1,2,4]triazolo[4′,3′:1,2]pyrido[3,4-d]pyrimidin-3-yl]ethyl}carbamate was added 1.8 mL of 4M HCl in anhydrous dioxane. The mixture was stirred at room temperature for 30 minutes and then concentrated. The residue was washed with diethyl ether and dried to give the title compound as a white solid. LC-MS 429 (M+1).

reactant | tert-butyl{(1R)-1-(2,4,5-trifluorobenzyl)-2-[9-(trifluoromethyl)-5,6-dihydro[1,2,4]triazolo[4′,3′:1,2]pyrido[3,4-d]pyrimidin-3-yl]ethyl}carbamate | 0.89 mmol, 47 mg | C(C)(C)(C)OC(N[C@@H](CC1=NN=C2N1CCC=1C2=NC(=NC1)C(F)(F)F)CC1=C(C=C(C(=C1)F)F)F)=O | C23H22F6N6O2
reactant | HCl | 4M, 1.8 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | {(1R)-1-(2,4,5-Trifluorobenzyl)-2-[9-(trifluoromethyl)-5,6-dihydro[1,2,4]triazolo[4′,3′:1,2]pyrido[3,4-d]pyrimidin-3-yl]ethyl}amine, hydrochloride | Cl.FC1=C(C[C@H](CC2=NN=C3N2CCC=2C3=NC(=NC2)C(F)(F)F)N)C=C(C(=C1)F)F | InChI=1S/C18H14F6N6.ClH/c19-11-6-13(21)12(20)4-9(11)3-10(25)5-14-28-29-16-15-8(1-2-30(14)16)7-26-17(27-15)18(22,23)24;/h4,6-7,10H,1-3,5,25H2;1H/t10-;/m1./s1
